US07476399B2
4-Methyl-pent-2-enoic acid (1,2,3,4-tetrahydro-naphthalen-1-yl)-amide
Prepared in a similar manner as described in example 4 from 4-methyl-pent-2-enoic acid and 1,2,3,4-tetrahydro-naphthalen-1-ylamine. MS (M+H, 244.2).

reactant | 4-methyl-pent-2-enoic acid | CC(C=CC(=O)O)C | C6H10O2
reactant | 1,2,3,4-tetrahydro-naphthalen-1-ylamine | C1(CCCC2=CC=CC=C12)N | C10H13N
product | 4-Methyl-pent-2-enoic acid (1,2,3,4-tetrahydro-naphthalen-1-yl)-amide | C1(CCCC2=CC=CC=C12)NC(C=CC(C)C)=O | C16H21NO
